US06586433B2
The N-(3-phenoxyphenyl)[[3-hydroxyphenyl]methyl]amine (400 mg, 1.35 mmol) product from EX-655A and 1,1,1-trifluoro-2,3-epoxypropane (348 mg, 3 mmol) were placed in a sealed vial, then stirred and heated to 95° C. for 15 h under an atmosphere of nitrogen. The vial was cooled, and more 1,1,1-trifluoro-2,3-epoxypropane (112 mg, 1 mmol) was added. The vial was sealed, then stirred and heated to 95° C. for a further 20 h under an atmosphere of nitrogen. The crude product was purified by flash column chromatography on silica gel eluting with ethyl acetate in hexane (1:6) to give 518 mg (77%) of the desired 3-[(3-phenoxyphenyl)[[3-(2-hydroxy-3,3,3-trifluoro-n-propoxy)-phenyl]methyl]amino]-1,1,1-trifluoro-2-propanol product as a light amber oil, 98% pure by HPLC analysis. 1H NMR (CDCl3) δ 7.20-7.32 (m, 3H), 7.14 (t, 1H), 7.07 (t, 1H), 6.95 (d, 2H), 6.80 (m, 2H), 6.74 (s, 1H), 6.48 (dd, 1H), 6.38 (m, 2H), 4.59 (ABq, 2H), 4.31 (m, 1H), 4.18 (dd, 1H), 4.10 (dd, 1H), 3.83 (dd, 1H), 3.54 (dd, 1H), 2.92 (d, 1H), 2.61 (d, 1H). 19F NMR (CDCl3) δ −78.0 (d, 3F), −79.2 (d, 3F). HRMS calcd. for C25H23F6 NO4: 516.1611 [M+H]+, found: 516.1618.

reactant | N-(3-phenoxyphenyl)[[3-hydroxyphenyl]methyl]amine | 1.35 mmol, 400 mg | O(C1=CC=CC=C1)C=1C=C(C=CC1)NCC1=CC(=CC=C1)O | C19H17NO2
reactant | 1,1,1-trifluoro-2,3-epoxypropane | 3 mmol, 348 mg | FC(C1CO1)(F)F | C3H3F3O
reactant | 1,1,1-trifluoro-2,3-epoxypropane | 1 mmol, 112 mg | FC(C1CO1)(F)F | C3H3F3O
product | 3-[(3-phenoxyphenyl)[[3-(2-hydroxy-3,3,3-trifluoro-n-propoxy)-phenyl]methyl]amino]-1,1,1-trifluoro-2-propanol | 518 mg, 77% | O(C1=CC=CC=C1)C=1C=C(C=CC1)N(CC(C(F)(F)F)O)CC1=CC(=CC=C1)OCC(C(F)(F)F)O | C25H23F6NO4
